US07405210B2
Preparation 74: 4-[Methyl-(2-nitrobenzenesulfonyl)amino]piperidine-1-carboxylic acid tert-butyl ester
To a solution of 4-(2-nitrobenzenesulfonylamino)piperidine-1-carboxylic acid tert-butyl ester (Preparation 73) (400 mg, 1.04 mmol) in DMF (10 mL) was added caesium carbonate (507 mg, 1.56 mmol) and the mixture stirred at rt for 40 min. Iodomethane (323 μL, 5.19 mmol) was added and the mixture stirred for 16 h. Solvent was removed in vacuo and the crude residue partitioned between ethyl acetate (20 mL) and water (20 mL). The organic layer was separated and washed with 1M HCl (2×20 mL), water (20 mL), then brine (2×20 mL) before being dried (MgSO4). The solvent was removed in vacuo to give the title compound as a yellow powder. δH (d6 DMSO): 8.43 (2H, m), 8.01 (2H, m), 4.00–3.89 (3H, m), 2.83–2.67 (5H, m), 1.54–1.43 (2H, m), 1.39 (9H, s), 1.34–1.24 (2H, m).

reactant | 4-(2-nitrobenzenesulfonylamino)piperidine-1-carboxylic acid tert-butyl ester | 1.04 mmol, 400 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)NS(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-] | C16H23N3O6S
reactant | caesium carbonate | 1.56 mmol, 507 mg | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Iodomethane | 5.19 mmol, 323 μL | IC | CH3I
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 4-[Methyl-(2-nitrobenzenesulfonyl)amino]piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(S(=O)(=O)C1=C(C=CC=C1)[N+](=O)[O-])C | C17H25N3O6S
